US08207164B2
a) 1-(5-Bromo-2-fluoro-phenyl)-ethanone
A solution of 17.78 ml (126 mmol) diisopropyl amine in 375 ml THF was cooled to −78° C. A 1.6 M solution of BuLi in hexanes (79 ml, 126 mmol) was added drop wise. After 15 minutes 20 g of 4-bromo-1-fluoro benzene (114 mmol) was added dropwise while keeping the temperature below −60° C. After stirring for 2.5 h at −70° C. 13.22 ml ethyl difluoro acetate were added. The mixture was warmed to −40° C. and then quenched by pouring the mixture onto 1M HCl. The mixture was extracted with ligroine, dried with MgSO4.H2O, concentrated and purified by column chromatography (silica gel; hexane/5-15% TBME) to give the desired product as a yellow liquid. 1H-NMR (CDCl3, 360 MHz): 8.09 (dd, 1H), 7.82-7.77 (m, 1H), 7.17 (t, 1H), 6.45 (t, 1H, CHF2)

reactant | diisopropyl amine | 126 mmol, 17.78 ml | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | [Li]CCCC
reactant | 4-bromo-1-fluoro benzene | 114 mmol, 20 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | ethyl difluoro acetate | 13.22 ml | CCOC(=O)C(F)F | C4H6F2O2
solvent | THF | 375 ml | C1CCOC1 | C4H8O
product | 1-(5-Bromo-2-fluoro-phenyl)-ethanone | BrC=1C=CC(=C(C1)C(C)=O)F | C8H6BrFO
